US09085540B2
A mixture of 3-nitrophenol (1 g), 3,5-dichloro-6-ethylpyrazine-2-carboxamide (1.74 g), diisopropylethylamine (2.63 mL), and dioxane (10 mL) was stirred at 80° C. overnight. To the reaction mixture was added water, and the precipitated solid was collected by filtration and then dried under reduced pressure to obtain 3-chloro-6-ethyl-5-(3-nitrophenoxy)pyrazine-2-carboxamide (1.68 g) as a white solid.

reactant | 3-nitrophenol | 1 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 3,5-dichloro-6-ethylpyrazine-2-carboxamide | 1.74 g | ClC=1C(=NC(=C(N1)Cl)CC)C(=O)N | C7H7Cl2N3O
reactant | diisopropylethylamine | 2.63 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 3-chloro-6-ethyl-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 1.68 g | ClC=1C(=NC(=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])CC)C(=O)N | C13H11ClN4O4
